US07615549B2
(d) (R)-4-[4-(4-amino-2-oxo-pyrrolidin-1-yl)-3-fluoro-phenyl]-morpholin-3-one
260 mg (0.6 mmol) benzyl (R)-{1-[2-fluoro-4-(3-oxo-morpholin-4-yl)-phenyl]-5-oxo-pyrrolidin-3-yl}-carbamate are dissolved in 10 ml of methanol, combined with 180 mg palladium on charcoal and hydrogenated for 3.75 hours in a Parr apparatus at 3 bar hydrogen pressure at ambient temperature.

reactant | benzyl (R)-{1-[2-fluoro-4-(3-oxo-morpholin-4-yl)-phenyl]-5-oxo-pyrrolidin-3-yl}-carbamate | 0.6 mmol, 260 mg | FC1=C(C=CC(=C1)N1C(COCC1)=O)N1C[C@@H](CC1=O)NC(OCC1=CC=CC=C1)=O | C22H22FN3O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium on charcoal | 180 mg | [Pd] | Pd
product | (R)-4-[4-(4-amino-2-oxo-pyrrolidin-1-yl)-3-fluoro-phenyl]-morpholin-3-one | N[C@@H]1CC(N(C1)C1=C(C=C(C=C1)N1C(COCC1)=O)F)=O | C14H16FN3O3
